US05792771
A preferred method of synthesis of (E)-1-cyano-3-(3-iodo-4,5-hydroxyphenyl)acrylonitrile (Compound 2) is as follows: The compound was prepared as described in Ohmichi et al., 1993, Biochemistry 32:4650 in two steps. First, 3-methoxy-4-hydroxy-5-iodobenzylidene malononitrile was prepared by adding 3 drops of piperidine to 1.4 g of 5-iodovanillin and 0.4 g of malononitrile in 25 ml of ethanol and refluxing the mixture for 4 hours. 0.8 g (49% yield) of a yellow solid resulted.

reactant | 5-iodovanillin | 1.4 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | malononitrile | 0.4 g | C(CC#N)#N | C3H2N2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-methoxy-4-hydroxy-5-iodobenzylidene malononitrile | COC=1C=C(C=C(C#N)C#N)C=C(C1O)I | C11H7IN2O2
